US04337256
1-Cyclopentylisoquinoline (obtained from 1-cyano-2-benzoyl-1,2-dihydroisoquinoline and cyclopentyl bromide) and N-hydroxymethyl dichloroacetamide were reacted in the same way as in step (b) of Example 18 to obtain 1-cyclopentyl-5-dichloroacetylaminomethylisoquinoline having a melting point of 151.0° to 152.3° C. The product was successively reacted in the same way as in steps (c), (d), (e), and (f) of Example 18 to afford 1-cyclopentylisoquinoline-5-acetonitrile having a melting point of 99.4° to 100.0° C.

reactant | 1-Cyclopentylisoquinoline | C1(CCCC1)C1=NC=CC2=CC=CC=C12 | C14H15N
reactant | N-hydroxymethyl dichloroacetamide | OCNC(C(Cl)Cl)=O | C3H5Cl2NO2
product | 1-cyclopentyl-5-dichloroacetylaminomethylisoquinoline | C1(CCCC1)C1=NC=CC2=C(C=CC=C12)CNC(C(Cl)Cl)=O | C17H18Cl2N2O
